US04803218
5-Amino-3-(2-nitropropyl)indole:
A solution of 1.5 g (0.006 mole) of 5-nitro-3-(2-nitropropyl)indole in 150 ml of EtOH treated with 100 mg of PtO2 was hydrogenated (Parr) for 15 minutes. The catalyst was filtered and solvent removed in vacuo to give a yellow product which solidified on standing. Recrystallization from EtOH afforded 0.9 g (70%) of desired product: m.p. 120°-121.5°.

reactant | 5-nitro-3-(2-nitropropyl)indole | 0.006 mole, 1.5 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CC(C)[N+](=O)[O-] | C11H11N3O4
solvent | EtOH | 150 ml | CCO | C2H6O
catalyst | PtO2 | 100 mg | O=[Pt]=O
product | 5-Amino-3-(2-nitropropyl)indole | 0.9 g, 70% | NC=1C=C2C(=CNC2=CC1)CC(C)[N+](=O)[O-] | C11H13N3O2
